US06982348B2
8) tert-butyl (4RS,5SR)-4-[3-(1,2-difluoro-2-methylpropyl)benzyl]-5-(4-fluorophenyl)-2-oxo-1,3-oxazolidine-3-carboxylate
A solution of (4RS,5SR)-4-[3-(1,2-difluoro-2-methylpropyl)benzyl]-5-(4-fluorophenyl)-1,3-oxazolidin-2-one (2.124 g, 5.845 mmol), di-tert-butyl dicarbonate (1.53 g, 7.01 mmol) and 4-N,N-dimethylaminopyridine (71 mg, 0.58 mmol) in acetonitrile (40 ml) was stirred overnight at room temperature. The solvent of the reaction solution was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=3/1−2/1) to give the objective substance.

reactant | (4RS,5SR)-4-[3-(1,2-difluoro-2-methylpropyl)benzyl]-5-(4-fluorophenyl)-1,3-oxazolidin-2-one | 5.845 mmol, 2.124 g | FC(C(C)(C)F)C=1C=C(CC2NC(OC2C2=CC=C(C=C2)F)=O)C=CC1 | C20H20F3NO2
reactant | di-tert-butyl dicarbonate | 7.01 mmol, 1.53 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | tert-butyl (4RS,5SR)-4-[3-(1,2-difluoro-2-methylpropyl)benzyl]-5-(4-fluorophenyl)-2-oxo-1,3-oxazolidine-3-carboxylate | FC(C(C)(C)F)C=1C=C(CC2N(C(OC2C2=CC=C(C=C2)F)=O)C(=O)OC(C)(C)C)C=CC1 | C25H28F3NO4
